US06603008B1
1-(4-Bromophenyl)-1-butanone (Step 2)
To a solution of 4-bromo-N-methoxy-N-methylbenzamide (13.4 g, 54.2 mmol) in THF (200 ml) was added n-PrMgBr (2M THF solution, 54.0 ml, 108 mmol) at 0° C. The mixture was stirred at room temperature for 45 minutes. Further n-PrMgBr (13.5 ml, 27.0 mmol) was added at 0° C., and the mixture was stirred at room temperature for 30 minutes. The excess reagent was quenched with saturated aqueous NH4Cl (200 ml), and ether (300 ml) was added. The organic layer was separated and the aqueous layer was extracted with ether (300 ml). The combined organic layer was washed with water (200 ml) and brine (200 ml), dried over Na2SO4, and concentrated in vacuo. The obtained residue was chromatographed on a column of silica gel eluting with hexane/ethyl acetate (15:1) to give 10.1 g (82%) of the title compound as a yellow solid.

reactant | 4-bromo-N-methoxy-N-methylbenzamide | 54.2 mmol, 13.4 g | BrC1=CC=C(C(=O)N(C)OC)C=C1 | C9H10BrNO2
reactant | n-PrMgBr | 108 mmol, 2M, 54.0 ml | C(CC)[Mg]Br
reactant | n-PrMgBr | 27.0 mmol, 13.5 ml | C(CC)[Mg]Br
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | 1-(4-Bromophenyl)-1-butanone | 10.1 g, 82% | BrC1=CC=C(C=C1)C(CCC)=O | C10H11BrO
